US08871756B2
N-[(1-Amino cyclohexyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 2-1 in Scheme 4 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1-(aminomethyl)-N,N-dibenzylcyclohexanamine. MS obsd. (ESI+) [(M+H)+] 465, 1H NMR (400 MHz, CDCl3) δ ppm 8.02-7.99 (dd, J=1.2 Hz, 8.0 Hz, 1 H), 7.65-7.63 (d, J=7.6 Hz, 1 H), 7.48-7.46 (m, 2 H), 7.34-7.25 (m, 3 H), 5.86 (s, 1 H), 5.64 (s, 1 H), 5.10 (s, 2 H), 4.56 (s, 2 H), 3.55 (s, 2 H), 3.05-3.04 (d, J=4.8 Hz, 2 H), 2.41 (s, 3 H), 1.98 (s, 4 H), 1.56 (m, 10 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1-(aminomethyl)-N,N-dibenzylcyclohexanamine | NCC1(CCCCC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H28N2
product | N-[(1-Amino cyclohexyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NC1(CCCCC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C26H32N4O2S
